### ISSUE TITLE
Unknown constant in `mkCongrSimp`/`getFunInfo`

### ISSUE THREAD

**Issue by sgraf812** [leanprover/lean4#11766]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

An "unknown constant" error thrown during `simp`/`grind`, complaining about a private field in the same module.

### Context

Sebastian and I already did some preliminary diagnosis. The error seems to be somewhere in `mkCongrSimp`, probably in `getFunInfo`. It might be related to https://github.com/leanprover/lean4/issues/11436.

### Steps to Reproduce

```lean
module

public structure State where
  private count : Nat

private example {P : State → Prop} (h : P ⟨State.count s⟩) :
    P ⟨State.count s⟩ := by
  simp [*]

private example {P : State → Prop} (h : P ⟨State.count s⟩) :
    P ⟨State.count s⟩ := by
  omega

private example {P : State → Prop} (h : P ⟨State.count s⟩) :
    P ⟨State.count s⟩ := by
  grind
```

**Expected behavior:** No error

**Actual behavior:** "unknown constant" error because of use of private field `State.count`. 

### Versions

Lean 4.27.0-rc1
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
